US05418241
1.1. 2-Chloro-3-nitrophenol
73 g (0.52 mol) of 3-nitrophenol are dissolved in 2 liters-of 6N hydrochloric acid while heating. The mixture is cooled in an ice bath to 28°-30° C. 32 g (0.26 mol) of potassium chlorate in 500 ml of water are added over 1.5 hours and then, at the end of the addition, the mixture is left stirring for 30 minutes at 28°-30° C. The mixture is cooled to 15° C. and 1 liter of dichloromethane is added. The layers are separated and the organic phase is washed with water. The organic phase is dried and evaporated. The residue is purified by chromatography on a column of silica gel, eluting with a dichloromethane/methanol (80/20) mixture. Recrystallization is carried out from toluene. 29 g of product are obtained.

reactant | 3-nitrophenol | 0.52 mol, 73 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | potassium chlorate | 0.26 mol, 32 g | Cl(=O)(=O)[O-].[K+]
reactant | dichloromethane | 1 liter | ClCCl | CH2Cl2
solvent | hydrochloric acid | 6N | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 2-Chloro-3-nitrophenol | 29 g, Yield=32% | ClC1=C(C=CC=C1[N+](=O)[O-])O | C6H4ClNO3
